US08541457B2
Synthesis of 2-[(5-benzylcarbamoyl-4-methyl-thiazol-2-ylcarbamoyl)-methyl]-benzoic acid
2-Amino-4-methylthiazole-5-carboxylic acid benzylamide (0.25 g, 1.00 mmol) and homophthalic acid (0.18 g, 1.00 mmol) were melted together at 170° C. for 2 hours. A colorless solid formed after the melt was cooled to ambient temperature. The solid was washed with ether (50 mL) and then crystallized from ethyl acetate/methanol to afford the title compound in 60% yield; 1H NMR (DMSO-d6, 300 MHz) δ 12.37 (s, 1H), 8.48 (t, J=5.9 Hz, 1H), 7.88 (dd, J=1.4, 7.6 Hz, 1H), 7.50 (dt, J=1.4, 7.6 Hz, 1H), 7.40-7.15 (m, 7H), 4.34 (d, J=5.9 Hz, 2H), 4.14 (s, 2H), 2.45 (s, 3H); MS (ES+) m/z 410.5 (M+1).

reactant | 2-Amino-4-methylthiazole-5-carboxylic acid benzylamide | 1.00 mmol, 0.25 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
reactant | homophthalic acid | 1.00 mmol, 0.18 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
product | 2-[(5-benzylcarbamoyl-4-methyl-thiazol-2-ylcarbamoyl)-methyl]-benzoic acid | 60% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)CC1=C(C(=O)O)C=CC=C1)C | C21H19N3O4S
